US05728708
80 mg (0.24 mmol) of N-[3-chloro-phenyl]-4-(2-carboxy-4-pyridyl)-2-pyrimidineamine, 70.8 mg (0.36 mmol) of N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride and 42 mg (0.36 mmol) of N-hydroxysuccinimide are dissolved in 3 ml of dimethylformamide and stirred for 2.5 h at RT. The reaction mixture is then added dropwise at 0° within a period of 30 minutes to a solution of 0.77 ml (11.8 mmol) of ethylenediamine in 2 ml of DMF. After stirring for 14 h at RT, the reaction mixture is poured into 50 ml of ethyl acetate and extracted with 30 ml of water. The organic phase is dried (sodium sulfate) and concentrated. Crystallisation from isopropanol/ethanolic hydrochloric acid gives N-[3-chloro-phenyl]-4-[2-(N-{2-amino-ethyl}-aminocarbonyl)-4-pyridyl]-2-pyrimidineamine hydrochloride; m.p. 161°-163°, FAB-MS: 369 (M+ +H).

reactant | N-[3-chloro-phenyl]-4-(2-carboxy-4-pyridyl)-2-pyrimidineamine | 0.24 mmol, 80 mg | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(=O)O | C16H11ClN4O2
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.36 mmol, 70.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxysuccinimide | 0.36 mmol, 42 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | ethylenediamine | 11.8 mmol, 0.77 ml | C(CN)N | C2H8N2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-chloro-phenyl]-4-[2-(N-{2-amino-ethyl}-aminocarbonyl)-4-pyridyl]-2-pyrimidineamine hydrochloride | Cl.ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(=O)NCCN | InChI=1S/C18H17ClN6O.ClH/c19-13-2-1-3-14(11-13)24-18-23-8-5-15(25-18)12-4-7-21-16(10-12)17(26)22-9-6-20;/h1-5,7-8,10-11H,6,9,20H2,(H,22,26)(H,23,24,25);1H
